US07612054B2
a) 7-Cyclopropyl-3,4-dihydro-2H-naphthalen-1-one
To a yellow suspension of 2 g 7-Bromo-1-tetralone, 1 g boronic acid, 7.1 g potassium phosphate (pulverized) and 0.28 g tricyclohexylphosphine in 40 ml toluene and 2 ml water 0.1 g of palladium acetate is added under a argon atmosphere. The mixture is heated to 100° C. After 1 h, the reaction mixture is allowed to cool to rt and quenched with water. The reaction mixture is extracted with EtOAc. The combined organic phases are washed with brine, dried over sodium sulfate and filtered. The brown oil is purified by flash-chromatography (hexane/EtOAc=6/1).

reactant | 7-Bromo-1-tetralone | 2 g | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | boronic acid | 1 g | B(O)O | BH3O2
reactant | potassium phosphate | 7.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.28 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 2 ml, 0.1 g | O | H2O
product | 7-Cyclopropyl-3,4-dihydro-2H-naphthalen-1-one | C1(CC1)C1=CC=C2CCCC(C2=C1)=O | C13H14O
